US06150479
Benzoyl imidazole was prepared by the above procedure using benzoyl chloride (28.1 grams, 200 mmole) and imidazole (14.3 grams, 210 mmole), in an amount of 24.3 grams (71% yield).

reactant | benzoyl chloride | 200 mmole, 28.1 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | imidazole | 210 mmole, 14.3 grams | N1C=NC=C1 | C3H4N2
product | Benzoyl imidazole | 71% yield | C(C1=CC=CC=C1)(=O)C=1NC=CN1 | C10H8N2O
